US04457872
A mixture of 1.1 g of bromine and 5 ml of acetic acid was added dropwise to a solution of 1.5 g of ethyl 5-cyano-2-hydroxyoxanilate and 1 g of sodium acetate in a mixed solution of 10 ml of dimethyl sulfoxide, 10 ml of methanol and 20 ml of acetic acid. After stirring the mixture for 30 minutes at room temperature, 6 ml of 2 normal hydrochloric acid and 200 ml of water were added to the reaction mixture and the product was extracted with a mixture of 30 ml of toluene and 40 ml of ethyl acetate. The extract was washed with water, dried, and then concentrated under reduced pressure. Crystals formed were washed with a mixture of ether and n-hexane to provide 1.5 g of ethyl 3-bromo-5-cyano-2-hydroxyoxanilate.

reactant | bromine | 1.1 g | BrBr | Br2
reactant | ethyl 5-cyano-2-hydroxyoxanilate | 1.5 g | C(#N)C=1C=CC(=C(NC(C(=O)OCC)=O)C1)O | C11H10N2O4
reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | ethyl 3-bromo-5-cyano-2-hydroxyoxanilate | 1.5 g | BrC=1C(=C(NC(C(=O)OCC)=O)C=C(C1)C#N)O | C11H9BrN2O4
